US05055607
Preparation of Polyisobutyl-24 Diethylene-triamine Carbamate
A 988 g (1:04 mole) portion of polyisobutyl-24 chloroformate prepared according to the procedure outlined in Example 2, which had been diluted to 1800 ml with toluene was combined with 1800 ml of a solution containing 870 ml (8.05 moles) of diethylenetriamine in toluene using a Kenics static mixer (11 inches×3/8 inch); the reaction mixture was discharged into a 5 liter receiver. The reaction mixture was stripped, and then diluted with 8 1 hexane. A lower layer containing excess diethylene triamine was removed. The upper layer was washed twice with 3 l 5% aqueous sodium hydroxide; phase separation was assisted by the addition of salt, NaCl (to give brine in situ). After a final wash with basic brine, the organic layer was dried (over Na2SO4 ), filtered and stripped to give the above-identified product as a viscous yellow liquid (AV=64).

reactant | chloroformate | ClC(=O)[O-]
reactant | diethylenetriamine | 8.05 moles, 870 ml | NCCNCCN | C4H13N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | Diethylene-triamine Carbamate | C(N)(O)=O.NCCNCCN | InChI=1S/C4H13N3.CH3NO2/c5-1-3-7-4-2-6;2-1(3)4/h7H,1-6H2;2H2,(H,3,4)
